US03985804
Preparation of 3'-propargyloxy-2-methylbenzanilide
A mixture of 22.7 g (0.1 mol) of 3'-hydroxy-2-methylbenzanilide, 11.9 g (0.1 mol) of propargylbromide, 10.6 g (0.1 mol) of sodium carbonate and 250 ml of acetone was prepared and the nixture was refluxed for 4 hours with stirring. After cooling, the reaction mixture was filtered and the acetone was removed by distillation. The residual material was dissolved in benzene, washed with water and dehydrated over anhydrous sodium sulfate. The benzene was removed and the product was recrystallized from aqueous ethanol to obtain a 23.2 g (87.7%) of fine white needles having a melting point of 93°-95° C. EXAMPLE 8

reactant | 3'-hydroxy-2-methylbenzanilide | 0.1 mol, 22.7 g | OC=1C=C(NC(C2=C(C=CC=C2)C)=O)C=CC1 | C14H13NO2
reactant | propargylbromide | 0.1 mol, 11.9 g | C(C#C)Br | C3H3Br
reactant | sodium carbonate | 0.1 mol, 10.6 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 3'-propargyloxy-2-methylbenzanilide | 23.2 g, 87.7% | C(C#C)OC=1C=C(NC(C2=C(C=CC=C2)C)=O)C=CC1 | C17H15NO2
